US06759428B2
The (S)-4-cyano-4-({(1R,2S)-2-[(1-methyl-1H-indole-2-carbonyl)-amino]-cyclohexanecarbonyl}-amino)-butyric acid (140 mg, 0.341 mmol), morpholine (50 μL, 0.57 mmol), EDCI hydrochloride (102 mg, 0.532 mmol), HOBT (50 mg, 0.37 mmol) and N-methyl morpholine (0.10 mL, 0.91 mmol) were dissolved in 5.0 mL of DMF and stirred at room temp for 4 hours. The reaction mixture was partitioned between 50 mL of water and 50 mL of ethyl acetate. The organic layer was washed with water (2×50 mL), dried with sodium sulfate, filtered and concentrated to give 98 mg (60%) of 1-Methyl-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-4-morpholin-4-yl-4-oxo-butylcarbamoyl)-cyclohexyl]-amide as a white amorphous solid. MS: 480 (M+H+).

reactant | (S)-4-cyano-4-({(1R,2S)-2-[(1-methyl-1H-indole-2-carbonyl)-amino]-cyclohexanecarbonyl}-amino)-butyric acid | 0.341 mmol, 140 mg | C(#N)[C@H](CCC(=O)O)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)C | C22H26N4O4
reactant | morpholine | 0.57 mmol, 50 μL | N1CCOCC1 | C4H9NO
reactant | EDCI hydrochloride | 0.532 mmol, 102 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.37 mmol, 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl morpholine | 0.91 mmol, 0.10 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 1-Methyl-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-4-morpholin-4-yl-4-oxo-butylcarbamoyl)-cyclohexyl]-amide | 98 mg, 60% | C(#N)[C@H](CCC(=O)N1CCOCC1)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)C | C26H33N5O4
